US09371320B2
D) 4-(4-methoxy-1-phenyl-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
A solution of 4-methoxy-1-phenyl-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (100 mg), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (83 mg), tetrakis(triphenylphosphine)palladium(0) (31.0 mg) and 2M aqueous sodium carbonate solution (1.0 mL) in DME (10 mL) was heated overnight with reflux under nitrogen atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (101 mg).

reactant | 4-methoxy-1-phenyl-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 100 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2=CC=CC=C2)(F)F | C14H10F3N3O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 83 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
reactant | sodium carbonate | 2M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 31.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-methoxy-1-phenyl-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 101 mg | COC1=NC=CC2=C1C(=NN2C2=CC=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N | C19H16N4O3S
